US07417028B2
3. (6-o-Tolylpyridin-3-yl)methanol
To a solution of 1.070 g (5.43 mmol) of 6-o-tolylnicotinaldehyde in 19 mL of ethanol at 0-5° C., was added 287 mg (7.5 mmol, 1.4 eq.) of sodium borohydride. After 2 h, the reaction mixture was quenched with saturated sodium bicarbonate solution and, after 30 min, partitioned between dichloromethane and brine. The organic extract was dried over magnesium sulfate and concentrated to give the indicated product as a colorless oil, 1.08 g, 100% yield.

reactant | 6-o-tolylnicotinaldehyde | 5.43 mmol, 1.070 g | C1(=C(C=CC=C1)C1=NC=C(C=O)C=C1)C | C13H11NO
reactant | sodium borohydride | 7.5 mmol, 287 mg, 1.4 eq. | [BH4-].[Na+]
solvent | ethanol | 19 mL | C(C)O | C2H6O
product | (6-o-Tolylpyridin-3-yl)methanol | 100% yield | C1(=C(C=CC=C1)C1=CC=C(C=N1)CO)C | C13H13NO
